US07495001B2
1.58 g (3.90 mmol) of 2-methyl-2-[4-(2-trimethylsilanyl-ethoxymethoxy)-naphthalen-2-yloxy]-propionic acid ethyl ester (prepared from 4-(2-trimethylsilanyl-ethoxymethoxy)-naphthalen-2-ol, ethyl bromoisobutyrate, cesium carbonate, in analogy to the procedure described in example 14B] was dissolved in 20 ml of EtOH; then, 1.95 ml of HCl/EtOH-solution (6 molar) was added drop by drop. After 7 hours stirring at room temperature, the solvent was removed by evaporation and the residue was partitioned between water and MeCl2. The organic phase was separated, washed with water, dried (MgSO4) and evaporated. The crude product was purified by chromatography over silica gel with a gradient of AcOEt/heptane to give 1.06 g of pure 2-(4-hydroxy-naphthalen-2-yloxy)-2-methyl-propionic acid ethyl ester as light brown oil.

reactant | 2-methyl-2-[4-(2-trimethylsilanyl-ethoxymethoxy)-naphthalen-2-yloxy]-propionic acid ethyl ester | 3.90 mmol, 1.58 g | C(C)OC(C(C)(OC1=CC2=CC=CC=C2C(=C1)OCOCC[Si](C)(C)C)C)=O | C22H32O5Si
reactant | 4-(2-trimethylsilanyl-ethoxymethoxy)-naphthalen-2-ol | C[Si](CCOCOC1=CC(=CC2=CC=CC=C12)O)(C)C | C16H22O3Si
reactant | ethyl bromoisobutyrate | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl EtOH | 6 molar, 1.95 ml | Cl.CCO
solvent | EtOH | 20 ml | CCO | C2H6O
product | 2-(4-hydroxy-naphthalen-2-yloxy)-2-methyl-propionic acid ethyl ester | 1.06 g | C(C)OC(C(C)(C)OC1=CC2=CC=CC=C2C(=C1)O)=O | C16H18O4
